US06846835B2
Synthesis of 9-((2R)-2-((1R)-3,3-difluorocyclopentyl)-2-hydroxy-2-phenylethanoyl)oxy-3,3-dimethyl-3-azoniabicyclo[3.3.1]nonane iodide
Each of the diastereomers of 3-methyl-3-azabicyclo[3.3.1]non-9-yl(2R)-2-((1R)-3,3-difluorocyclopentyl)-2-hydroxy-2-phenylethanoate was dissolved in 0.5 ml of methyl iodide and heated under reflux for 12 hours. Thereafter the excessive reagent was distilled off under reduced pressure. The residue was purified on a preparative thin layer chromatography (Aluminiumoxide™60F254, Art5713 (Merck), chloroform/methanol=20/1) to provide the title compound whose (9endo**)-body was obtained from the (9endo*)-body, and (9exo**)-body, from the (9exo*)-body, both as colorless, oily substances.

reactant | 3-methyl-3-azabicyclo[3.3.1]non-9-yl(2R)-2-((1R)-3,3-difluorocyclopentyl)-2-hydroxy-2-phenylethanoate | FC1(C[C@@H](CC1)[C@](C(=O)OC1C2CN(CC1CCC2)C)(C2=CC=CC=C2)O)F | C22H29F2NO3
reactant | methyl iodide | 0.5 ml | CI | CH3I
product | 9-((2R)-2-((1R)-3,3-difluorocyclopentyl)-2-hydroxy-2-phenylethanoyl)oxy-3,3-dimethyl-3-azoniabicyclo[3.3.1]nonane iodide | [I-].FC1(C[C@@H](CC1)[C@](C(=O)OC1C2C[N+](CC1CCC2)(C)C)(C2=CC=CC=C2)O)F | InChI=1S/C23H32F2NO3.HI/c1-26(2)14-16-7-6-8-17(15-26)20(16)29-21(27)23(28,18-9-4-3-5-10-18)19-11-12-22(24,25)13-19;/h3-5,9-10,16-17,19-20,28H,6-8,11-15H2,1-2H3;1H/q+1;/p-1/t16?,17?,19-,20?,23+;/m1./s1
